US06140338
Synthesis of N-[1-(cyclooctylmethyl)piperidin-4-yl]xanthene-9-carboxamide
1.16 g of N-(piperidin-4-yl)xanthene-9-carboxamide hydrochloride and 586 mg of cyclooctanecarbaldehyde were suspended in 60 ml of tetrahydrofuran at room temperature, and 1.60 g of sodium triacetoxyborohydride was added thereto, followed by stirring for 12 hours at the same temperature. Saturated aqueous sodium bicarbonate was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, followed by drying over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, the obtained residue was purified by silica gel column chromatography (developing solvent: chloroform--chloroform/methanol=50/1), and 660 mg of the title compound as a white solid was obtained.

reactant | N-(piperidin-4-yl)xanthene-9-carboxamide hydrochloride | 1.16 g | Cl.N1CCC(CC1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12
reactant | cyclooctanecarbaldehyde | 586 mg | C1(CCCCCCC1)C=O | C9H16O
reactant | sodium triacetoxyborohydride | 1.60 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | N-[1-(cyclooctylmethyl)piperidin-4-yl]xanthene-9-carboxamide | 660 mg | C1(CCCCCCC1)CN1CCC(CC1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C28H36N2O2
